US04686229
4-Acetoxymethylbenzaldehyde
54.2 g of 4-hydroxymethylbenzaldehyde, together with 40 g of triethylamine, are dissolved in 350 ml of dichloromethane. After the dropwise addition of 31.2 g of acetyl chloride at 0° to 5° C., the reaction mixture is allowed to stand overnight at room temperature. Thereafter, the precipitated triethylammonium chloride is filtered off under suction, and the filtrate is extracted 3 times with saturated bicarbonate solution. After it has been dried with sodium sulphate, the residue is distilled in a high vacuum. 47.9 g of a colorless solid are obtained in this manner.

reactant | 4-hydroxymethylbenzaldehyde | 54.2 g | OCC1=CC=C(C=O)C=C1 | C8H8O2
reactant | triethylamine | 40 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 31.2 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | 4-Acetoxymethylbenzaldehyde | 47.9 g | C(C)(=O)OCC1=CC=C(C=O)C=C1 | C10H10O3
